US08115007B2
Dipotassium 2,5-dihydroxyterephthalate was prepared in the known “Kolbe-Schmidt” type reaction from hydroquinone. Hydroquinone was mixed with potassium carbonate and potassium formate, the latter which acted as a solvent when molten. The mixture was heated to 200° C. with stirring to provide a homogeneous solution. Excess carbon dioxide was bubbled through the stirred solution for about 8 h. Excess carbon dioxide optionally may be recycled. The reaction mass was drowned in water, and filtered. When the drowned and stirred reaction mass was filtered, the sparingly soluble dipotassium 2,5-dihydroxyterephthalate was separated from water-soluble potassium formate and potassium carbonate.

reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium formate | C(=O)[O-].[K+]
product | Dipotassium 2,5-dihydroxyterephthalate | OC1=C(C(=O)[O-])C=C(C(=C1)C(=O)[O-])O.[K+].[K+] | InChI=1S/C8H6O6.2K/c9-5-1-3(7(11)12)6(10)2-4(5)8(13)14;;/h1-2,9-10H,(H,11,12)(H,13,14);;/q;2*+1/p-2
